US04537903
Step A: Preparation of p-propargyloxyphenol
Hydroquinone (49.6 g; 450 mM) was dissolved in 700 ml of anhydrous acetone in a two liter, 3-necked, round bottom flask equipped with reflux condensor, air stirrer and nitrogen bubbler. Potassium carbonate (65.6 g; 460 mM) was ground finely and then added to the reaction followed by propargylbromide (53.6 g; 450 mM). The reaction was heated at reflux for three days, cooled to room temperature, filtered and the solvent removed. The residue was taken up in ether and extracted three times with 2.5 N aqueous sodium hydroxide. The basic layers were acidified with concentrated hydrochloric acid while adding ice and extracted twice with ether. The combined ethereal layers were dried over magnesium sulfate, charcoal was added, and the mixture was filtered through celite. The solvent was removed in vacuo and the remaining dark brown sludge was purified by chromatography in two portions on a Waters Prep 500 equipped with two silica gel cartridges and eluted with 20% ethyl acetate in hexane after injecting in ether solution. This produced 21.4 g (64% of theory) of the desired p-propargyloxyphenol.

reactant | Hydroquinone | 450 mM, 49.6 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | Potassium carbonate | 460 mM, 65.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargylbromide | 450 mM, 53.6 g | C(C#C)Br | C3H3Br
solvent | acetone | 700 ml | CC(=O)C | C3H6O
product | p-propargyloxyphenol | C(C#C)OC1=CC=C(C=C1)O | C9H8O2
